US05272172
Methyl (4aS, 7R, 7aR)-1, 4a, 5, 6, 7, 7a-hexahydro-1-hydroxy-7-methylcyclopenta[c]pyran-4-carboxylate (300 mg, 0.0014 mol) and sodium boron hydride (270 mg, 0.007 mol) were dissolved in 8 ml of tetrahydrofuran, and while the reaction mixture was refluxed at 80° C., 1.5 ml of methanol was added dropwise in the course of 1 hour. The reaction mixture was stirred at the same temperature for 5 hours, and 10 ml of a saturated ammonium chloride solution wad added. The reaction mixture was once concentrated under a reduced pressure, and extraction was made with ethyl acetate (50 ml×2). The organic layers were joined, dried by adding magnesium sulfate, filtered and thereafter concentrated under a reduced pressure. The residual substance was purified by chromatography using silica gel, and the solvent of the fraction obtained from ether:ethyl acetate=1:1 eluent was distilled, and a colorless oily substance was obtained, i.e., 2-[(1R, 2R, 3S)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]ethan-1-ol (169 mg, yield=63.8%). This 2-[(1R, 2R, 3S)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]ethan-1-ol had the following physicochemical properties.

reactant | Methyl (4aS, 7R, 7aR)-1, 4a, 5, 6, 7, 7a-hexahydro-1-hydroxy-7-methylcyclopenta[c]pyran-4-carboxylate | 0.0014 mol, 300 mg | OC1OC=C([C@@H]2[C@H]1[C@@H](CC2)C)C(=O)OC | C11H16O4
reactant | sodium boron hydride | 0.007 mol, 270 mg | B.[Na]
reactant | methanol | 1.5 ml | CO | CH4O
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 2-[(1R, 2R, 3S)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]ethan-1-ol | 169 mg, yield=63.8% | OC[C@H]1[C@H](CC[C@@H]1C)CCO | C9H18O2
